US06737417B2
The mixture of (4S, 5R)-1-{(2R, 9E)-11-[3,17β-bis-(benzyloxy)estra-1,3,5(10), 9(11)-tetraen-11-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one and (4S, 5R)-1-{(2R, 9Z)-11-[3,17β-bis(benzyloxy)estra-1,3,5(10), 9(11)-tetraen-11-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one (283 mg, 0.27 mmol) was dissolved in a mixed solvent of methanol (12 ml) and tetrahydrofuran (1.2 ml), followed by addition of palladium hydroxide/carbon (85 mg) at room temperature. After purging with hydrogen, the reaction mixture was stirred for 1 day at room temperature. After the reaction mixture was filtered, the solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=3/7) to give (4S, 5R)-1-{(2R)-11-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)undecanoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one (164 mg, Yield 70%).

reactant | (4S, 5R)-1-{(2R, 9E)-11-[3,17β-bis-(benzyloxy)estra-1,3,5(10), 9(11)-tetraen-11-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC(=C3C2C=C1)C/C=C/CCCCCC[C@@H](C(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)OCC1=CC=CC=C1 | C60H67F9N2O4
reactant | (4S, 5R)-1-{(2R, 9Z)-11-[3,17β-bis(benzyloxy)estra-1,3,5(10), 9(11)-tetraen-11-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)-9-undecenoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one | 0.27 mmol, 283 mg | C(C1=CC=CC=C1)OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC(=C3C2C=C1)C\C=C/CCCCCC[C@@H](C(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)OCC1=CC=CC=C1 | C60H67F9N2O4
solvent | methanol | 12 ml | CO | CH4O
solvent | tetrahydrofuran | 1.2 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide/carbon | 85 mg | [OH-].[OH-].[Pd+2]
product | (4S, 5R)-1-{(2R)-11-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)undecanoyl}-3,4-dimethyl-5-phenylimidazolidin-2-one | 164 mg, Yield 70% | OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)CCCCCCCCC[C@@H](C(=O)N1C(N([C@H]([C@H]1C1=CC=CC=C1)C)C)=O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)O | C46H59F9N2O4
